US05140011
In an analogous manner to that described in Example 9, by reacting (3R,5S,6S)-6-amino-7-cyclohexyl-5-hydroxy-3-isopropylheptanoic acid butylamide with Boc-Phe-His-OH there is obtained t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4R)-4-[(butylcarbamoyl)methyl]-1-(cyclohexylmethyl)-2-hydroxy-5-methylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate as an amorphous solid, MS: 725 (M+H)+.

reactant | (3R,5S,6S)-6-amino-7-cyclohexyl-5-hydroxy-3-isopropylheptanoic acid butylamide | C(CCC)NC(C[C@@H](C[C@@H]([C@H](CC1CCCCC1)N)O)C(C)C)=O | C20H40N2O2
reactant | Boc-Phe-His-OH | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OC(C)(C)C | C20H26N4O5
product | t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4R)-4-[(butylcarbamoyl)methyl]-1-(cyclohexylmethyl)-2-hydroxy-5-methylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate | C(CCC)NC(=O)C[C@@H](C[C@@H]([C@H](CC1CCCCC1)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)O)C(C)C | C40H64N6O6
